US05296495
A mixture of 4-(tert-butylaminomethyl)-2-(5-hydroxybenzofuran-2-yl)thiazole (0.82 g) and acetic anhydride (0.75 g) in ethyl acetate (10 ml) was stirred under reflux for 4 hours. After being cooled, the resulting mixture was concentrated under reduced pressure. A solution of the resulting mixture in methanol (3 ml) and conc. ammonia water (1 ml) was stirred for 2 hours at ambient temperature, poured into brine, extracted with ethyl acetate, dried over magnesium sulfate and concentrated under reduced pressure to give 4-(N-acetyl-tert-butylaminomethyl)-2-(5-hydroxybenzofuran-2-yl)thiazole (0.93 g).

reactant | 4-(tert-butylaminomethyl)-2-(5-hydroxybenzofuran-2-yl)thiazole | 0.82 g | C(C)(C)(C)NCC=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)O | C16H18N2O2S
reactant | acetic anhydride | 0.75 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-(N-acetyl-tert-butylaminomethyl)-2-(5-hydroxybenzofuran-2-yl)thiazole | 0.93 g | C(C)(=O)N(C(C)(C)C)CC=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)O | C18H20N2O3S
